US07566724B2
In a mixed solvent of 2N aqueous sodium hydroxide solution (27.4 ml) and THF (55 ml), L-allylglycine (5.22 g) was dissolved, and 2,6-dichlorobenzoyl chloride (7.79 ml) was added dropwise thereto, followed by stirring the resulting mixture at room temperature for 1 hour. After concentrating the reaction solution to remove methanol, water (100 ml) was added thereto and the resulting mixture was washed with ether. Aqueous layer was acidified by adding 3N hydrochloric acid in small portions thereto, and extracted 3 times with ethyl acetate. Organic layers were washed with saturated brine and dried over anhydrous sodium sulfate. After removing anhydrous sodium sulfate by filtration, the filtrate was concentrated. The residue was recrystallized from hexane/ethyl acetate mixed solvent to obtain (S)-2-(2,6-dichlorobenzamido)pent-4-enoic acid (11.65 g). NMR (HL, CDCl3): δ 2.66-2.73 (1H, m), 2.80-2.86 (1H, m), 4.99 (1H, td, J=7.6, 5.6 Hz), 5.18-5.25 (2H, m), 5.76-5.86 (1H, m), 6.39 (1H, brd, J=7.6 Hz), 7.25-7.34 (3H, m) (2) Under an argon atmosphere, a solution of (S)-2-(2,6-dichlorobenzamido)pent-4-enoic acid (11.46 g) in methanol (120 ml) was cooled to 0° C. Thionyl chloride (5.22 ml) was added dropwise to the solution while keeping the reaction temperature not higher than 10° C., and thereafter the resulting mixture was stirred at room temperature for 3 hours. Water was added to the reaction solution, and sodium hydrogen carbonate was added thereto in small portions to neutralize it. After concentrating the reaction solution to remove methanol, aqueous layer was extracted twice with ethyl acetate. Organic layers were washed 3 times with water and once with saturated brine, and dried over anhydrous sodium sulfate. After removing anhydrous sodium sulfate by filtration, the filtrate was concentrated. The residue was recrystallized from hexane/ethyl acetate mixed solvent to obtain (S)-2-(2,6-dichlorobenzamido)pent-4-enoic acid methyl ester (11.68 g). NMR (H1, CDCl3): δ 2.62-2.69 (1H, m), 2.76-2.83 (1H, m), 3.79 (3H, s), 4.96 (1H, td, J=7.8, 5.4 Hz), 5.14-5.21 (2H, m), 5.72-5.82 (1H, m), 6.42 (1H, brd, J=6.8 Hz), 7.25-7.34 (3H, m)

reactant | L-allylglycine | 5.22 g | C=CC[C@@H](C(=O)O)N | C5H9NO2
reactant | 2,6-dichlorobenzoyl chloride | 7.79 ml | ClC1=C(C(=O)Cl)C(=CC=C1)Cl | C7H3Cl3O
solvent | sodium hydroxide | 2N, 27.4 ml | [OH-].[Na+]
solvent | THF | 55 ml | C1CCOC1 | C4H8O
product | (S)-2-(2,6-dichlorobenzamido)pent-4-enoic acid | 11.65 g | ClC1=C(C(=O)N[C@H](C(=O)O)CC=C)C(=CC=C1)Cl | C12H11Cl2NO3
